US03988303
Into a 100 ml four-necked flask provided with a stirrer, an inlet tube for the supply of an inert gas and an outlet pipe for the discharge of said inert gas 0.654 g of pyromellitic anhydride, 0.60 g of 4,4'-diaminodiphenyloxide, 0.45 ml of acetic acid and 10.0 ml of nitrobenzene. The reaction mixture is heated to 120° C with stirring and passing an inert gas and maintained at this temperature for 1 hour. On completion of the reaction and cooling the reaction mixture, the precipitated polymer is filtered off, repeatedly washed with acetone and ethanol and dried in vacuum at 120° C ηinh in sulfuric acid is 0.67 dl/g. (0.05 g of the polymer in 10 ml of the solvent).

reactant | nitrobenzene | 10.0 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetic acid | 0.45 ml | C(C)(=O)O | C2H4O2
product | 4,4'-diaminodiphenyloxide | 0.60 g | C1=CC(=CC=C1N)OC2=CC=C(C=C2)N | C12H12N2O
